US06638927B2
A mixture of 1-(hydroxyimino)-4-phenylcyclohexane (17.4 mmol) and Raney Nickel (300 mg) in ethanol was hydrogenated (90 psi) at 50° C. for 40 hours. The mixture was filtered through a pad of Celite, washed with MeOH, and concentrated. The residue was dissolved in MeOH, treated with HCl (4 N in dioxane, 20 mmol), and concentrated to give 4-phenylcyclohexylamine hydrochloride (100%).

reactant | 1-(hydroxyimino)-4-phenylcyclohexane | 17.4 mmol | ON=C1CCC(CC1)C1=CC=CC=C1 | C12H15NO
reactant | HCl | 20 mmol, 4 N | Cl | ClH
catalyst | Raney Nickel | 300 mg | [Ni] | Ni
solvent | ethanol | C(C)O | C2H6O
product | 4-phenylcyclohexylamine hydrochloride | 100% | Cl.C1(=CC=CC=C1)C1CCC(CC1)N | InChI=1S/C12H17N.ClH/c13-12-8-6-11(7-9-12)10-4-2-1-3-5-10;/h1-5,11-12H,6-9,13H2;1H
